US04757070
4-Methoxymethyl-5-(4-morpholinylmethyl)-beta-carboline-3-carboxylic acid ethyl ester
5-Hydroxymethyl-4-methoxymethyl-beta-carboline-3-carboxylic acid ethyl ester (0.20 g) is dissolved in dichloromethane (5 ml). A solution of phosphorous tribromide (0.17 g) in dichloromethane (3 ml) is added drop by drop with stirring. After three hours of stirring, the mixture is cooled to +10° C. and mixed with a solution of morpholine (1.0 ml) in ethanol (5 ml) drop by drop. After standing overnight the solvent is evaporated, the residue is chromatographed on silica gel with a mixture of dichloromethane (19 parts) and ethanol (1 part) and the title compound (0.16 g) with a melting point of 195°-196° C. is obtained.

reactant | 5-Hydroxymethyl-4-methoxymethyl-beta-carboline-3-carboxylic acid ethyl ester | 0.20 g | C(C)OC(=O)C=1N=CC=2NC3=CC=CC(=C3C2C1COC)CO | C17H18N2O4
reactant | phosphorous tribromide | 0.17 g | P(Br)(Br)Br | Br3P
reactant | morpholine | 1.0 ml | N1CCOCC1 | C4H9NO
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 3 ml | ClCCl | CH2Cl2
solvent | ethanol | 5 ml | C(C)O | C2H6O
product | 4-Methoxymethyl-5-(4-morpholinylmethyl)-beta-carboline-3-carboxylic acid ethyl ester | 0.16 g | C(C)OC(=O)C=1N=CC=2NC3=CC=CC(=C3C2C1COC)CN1CCOCC1 | C21H25N3O4
